US06281231B1
1.4 g of 2,6-dichloro-4-pyridinemethanol were dissolved into 5 ml of pyridine, and the solution was cooled by ice. To this, 1.5 g of 2-nitrobenzoyl chloride, which was prepared from 2-nitrobenzoic acid and thionyl chloride, were added dropwise. After the reacted solution was stirred for 2 hours, dichloromethane was added. The organic phase was washed with water, and was dried by adding sodium sulfate. The solvent was removed by evaporation, and the residue was purified by silica gel column chromatography to obtain 1.4 g of (2,6-dichloro-4-pyridinyl)methyl 2-nitrobenzoate ester (Compound No. 69).

reactant | 2,6-dichloro-4-pyridinemethanol | 1.4 g | ClC1=NC(=CC(=C1)CO)Cl | C6H5Cl2NO
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-nitrobenzoic acid | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-nitrobenzoyl chloride | 1.5 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
